US05852019
(1) 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-pyrimidinyl)-1-piperazinyl]-1-propanone dihydrochloride
404 mg of 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole and 474 mg of 1-(2-pyrimidinyl)piperazine dihydrochloride were dissolved in 15 ml of ethanol and heated under reflux for 23 hours. During this period, 900 mg of paraformaldehyde was added thereto in portions. The reaction mixture was cooled, and the precipitate thus formed was taken up by filtration and washed with methanol. Thus 327 mg of the title compound was obtained in the form of a colorless solid product.

reactant | 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole | 404 mg | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=N1 | C10H10N4O
reactant | 1-(2-pyrimidinyl)piperazine dihydrochloride | 474 mg | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | paraformaldehyde | 900 mg | C=O | CH2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-pyrimidinyl)-1-piperazinyl]-1-propanone dihydrochloride | 327 mg | Cl.Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CCN(CC1)C1=NC=CC=N1)=O | InChI=1S/C19H22N8O.2ClH/c1-15-16(14-24-27(15)19-22-7-3-8-23-19)17(28)4-9-25-10-12-26(13-11-25)18-20-5-2-6-21-18;;/h2-3,5-8,14H,4,9-13H2,1H3;2*1H
